US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-6,7-dihydro-5H-pyrazolo[5,1-b][1,3]oxazine-2-carboxamide
The title compound was prepared using the method of Example 34(d) starting from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (200 mg, 0.767 mmol) and 6,7-dihydro-5H-pyrazolo[5,1-b][1,3]oxazine-2-carboxylic acid (168 mg, 0.997 mmol). The product was purified with flash-chromatography. Yield 251 mg (80%). 1H-NMR (400 MHz; CDCl3): δ 1.21 (d, 3H), 2.27-2.32 (m, 2H), 4.14-4.20 (m, 2H), 4.26-4.43 (m, 4H), 4.51-4.60 (m, 1H), 6.01 (s, 1H), 6.62 (d, 1H), 7.49 (d, 1H), 7.51 (d, 1H), 7.66 (d, 1H), 7.81-7.84 (m, 1H), 8.03 (d, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.767 mmol, 200 mg | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
reactant | 6,7-dihydro-5H-pyrazolo[5,1-b][1,3]oxazine-2-carboxylic acid | 0.997 mmol, 168 mg | N1=C(C=C2OCCCN21)C(=O)O | C7H8N2O3
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-6,7-dihydro-5H-pyrazolo[5,1-b][1,3]oxazine-2-carboxamide | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=NN2C(OCCC2)=C1 | C20H19ClN6O2
